US09289430B2
tert-butyl 3-(2-(2-(2-(((6-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)-phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)pyridin-2-yl)methyl)(methyl)-amino)ethoxy)ethoxy)ethoxy)propanoate
Into a 50-mL round bottom flask, was placed a solution of 6-(chloromethyl)-N-(4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)picolinamide (170 mg, 0.29 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), tert-butyl 3-(2-(2-(2-(methylamino)ethoxy)ethoxy)ethoxy)-propanoate (255 mg, 0.88 mmol, 3.00 equiv), potassium iodide (24.2 mg, 0.15 mmol, 0.50 equiv), and potassium carbonate (79.5 mg, 0.58 mmol, 1.97 equiv). The resulting solution was stirred for 2.5 h at 70° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting solution was diluted with 50 mL of water. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×50 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in

reactant | 6-(chloromethyl)-N-(4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)picolinamide | 0.29 mmol, 170 mg, 1.00 equiv | ClCC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C29H26ClF3N6O2
reactant | tert-butyl 3-(2-(2-(2-(methylamino)ethoxy)ethoxy)ethoxy)-propanoate | 0.88 mmol, 255 mg, 3.00 equiv | CNCCOCCOCCOCCC(=O)OC(C)(C)C | C14H29NO5
reactant | potassium iodide | 0.15 mmol, 24.2 mg, 0.50 equiv | [I-].[K+]
reactant | potassium carbonate | 0.58 mmol, 79.5 mg, 1.97 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | tert-butyl 3-(2-(2-(2-(((6-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)-phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)pyridin-2-yl)methyl)(methyl)-amino)ethoxy)ethoxy)ethoxy)propanoate | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C1=CC=CC(=N1)CN(CCOCCOCCOCCC(=O)OC(C)(C)C)C)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C43H54F3N7O7
